US07569566B2
[3-Bromo-5-(trifluoromethyl)phenyl]-carbamic acid, 1,1-dimethylethyl ester
A mixture of 3-amino-5-bromo-benzotrifluoride (Apollo, England; 12 g, 50 mmol), di-t-butyl-dicarbonate (12 g, 55 mmol) and 4-dimethylaminopyridine (0.61 g, 5 mmol) in acetonitrile (100 mL) is stirred at 60° C. for 8 h. The solvent is then evaporated off under reduced pressure to yield the crude product which is purified by column chromatography (silica gel, eluent 10% ethyl acetate in hexane) and recrystallised from hexane to afford the title compound as a colourless crystalline solid, m.p. 113-115° C.

reactant | 3-amino-5-bromo-benzotrifluoride | 50 mmol, 12 g | NC=1C=C(C=C(C1)Br)C(F)(F)F | C7H5BrF3N
reactant | di-t-butyl-dicarbonate | 55 mmol, 12 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 5 mmol, 0.61 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | [3-Bromo-5-(trifluoromethyl)phenyl]-carbamic acid, 1,1-dimethylethyl ester | BrC=1C=C(C=C(C1)C(F)(F)F)NC(OC(C)(C)C)=O | C12H13BrF3NO2
